US06130187
Preparation of 3-(4-chloro-6-fluoro-2-methoxymethylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 14)
1.5 g (3.3 mmol) of 3-(2-bromomethyl-4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil was dissolved in 30 ml of tetrahydrofuran, and 0.7 g (3.6 mmol) of sodium methoxide (28% methanol solution) was dropwise added thereto under cooling with ice. After stirring at room temperature for 5 minutes, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.75 g (yield: 56.0%) of the desired product as a yellowish brown glassy substance. Refractive index: 1.5389 (20° C.).

reactant | 3-(2-bromomethyl-4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 3.3 mmol, 1.5 g | BrCC=1OC2=C(C1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C15H8BrClF4N2O3
reactant | sodium methoxide | 3.6 mmol, 0.7 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(4-chloro-6-fluoro-2-methoxymethylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.75 g, yield: 56.0% | ClC1=CC(=C(C2=C1C=C(O2)COC)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C16H11ClF4N2O4
